US08729102B2
A) 1-[4-(benzyloxy)phenyl]-1-(2-bromo-5-methoxybenzyl)hydrazine
To a solution of [4-(benzyloxy)phenyl]hydrazine hydrochloride (2.0 g) in THF (25 mL) was added dropwise a THF solution (1.9 M, 8.4 ml) of sodium hexamethyldisilazide under ice-cooling, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added 1-bromo-2-(bromomethyl)-4-methoxybenzene (2.23 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the solvent was evaporated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.56 g).

reactant | [4-(benzyloxy)phenyl]hydrazine hydrochloride | 2.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 1-bromo-2-(bromomethyl)-4-methoxybenzene | 2.23 g | BrC1=C(C=C(C=C1)OC)CBr | C8H8Br2O
reactant | Water | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 1.9 M, 8.4 ml | C1CCOC1 | C4H8O
product | 1-[4-(benzyloxy)phenyl]-1-(2-bromo-5-methoxybenzyl)hydrazine | 1.56 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(N)CC1=C(C=CC(=C1)OC)Br | C21H21BrN2O2
